US05175166
2-Amino-3,4,5,6-tetrahydropyridine-6-carboxylic acid HCl
2-Aminopyridine-6-carboxylic acid (Farmaco. Ed. Sci. 1959, 14, 594; 2.01 g, 14.5 mmol) was dissolved in 90% methanol (200 ml) and conc. HCl (7.2 ml, 87.4 mmol) was added. The solution was hydrogenated over PtO2 (340 mg) in a Parr shaker apparatus at room temperature and 29 psig for 2 hours. Filtration and evaporation gave 2.08 g (80%) crude white crystals identified as the product by 300 MHz nmr and ir 1724 cm-1.

reactant | 2-Aminopyridine-6-carboxylic acid | 14.5 mmol, 2.01 g | NC1=NC(=CC=C1)C(=O)O | C6H6N2O2
reactant | HCl | 87.4 mmol, 7.2 ml | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
catalyst | PtO2 | 340 mg | O=[Pt]=O
product | 2-Amino-3,4,5,6-tetrahydropyridine-6-carboxylic acid HCl | 2.08 g, 80% | Cl.NC1=NC(CCC1)C(=O)O | InChI=1S/C6H10N2O2.ClH/c7-5-3-1-2-4(8-5)6(9)10;/h4H,1-3H2,(H2,7,8)(H,9,10);1H
